US07700595B2
3-Benzyl-8-chloro-4-{3-[(2-chlorobenzyl)oxy]phenyl}cinnoline
The title compound was prepared from 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenol and 2-chlorobenzyl bromide according the procedure of Example 14. MS (ES) m/z 470.8.

reactant | 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenol | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)O | C20H13ClN2O
reactant | 2-chlorobenzyl bromide | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
product | 3-Benzyl-8-chloro-4-{3-[(2-chlorobenzyl)oxy]phenyl}cinnoline | C(C1=CC=CC=C1)C=1N=NC2=C(C=CC=C2C1C1=CC(=CC=C1)OCC1=C(C=CC=C1)Cl)Cl | C28H20Cl2N2O
